### PR TITLE
[Merged by Bors] - chore: bump Std, changes for leanprover/std4#366

### PR DESCRIPTION
**Pull request by kim-em**
Notably leanprover/std4#366 changed the definition of `testBit` (to something equivalent) when upstreaming it, which broke a handful of proofs.

Other conflicting changes in Std, resolved for now by priming the mathlib name:

* `Std.BitVec.adc`: the type was changed from `BitVec (n + 1)` to `Bool × BitVec w`
* `Nat.mul_add_mod`: the type was changed from `(a * b + c) % b = c % b` to `(b * a + c) % b = c % b`

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/Mathlib.20bump.20for.20.22Operations.20for.20bit.20representation.20of.20.2E.2E.2E.22/near/404801443)

---

This still has some breakages arising from leanprover/std4#366, around `testBit`. Fixes welcome!

Please see also #8705, which keeps everything, but renames `Nat.testBit` to `Nat.testBit'`, so for now it can exist alongside Std's `Nat.testBit`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by alexkeizer** [comment]
I foresee `testBit_bitwise` and its corollaries being useful in the near future; I'll give fixing them a try

**Comment by alexkeizer** [comment]
All of the previously commented out theorems should now have proper proofs

File: Mathlib/Data/Nat/Bitwise.lean [hunk 1]
```diff
@@ -372,24 +349,16 @@ theorem zero_xor (n : ℕ) : 0 ^^^ n = n := by simp [HXor.hXor, Xor.xor, xor]
...
-theorem zero_lor (n : ℕ) : 0 ||| n = n := by
-  simp only [HOr.hOr, OrOp.or, lor, bitwise_zero_left, ite_true, Bool.or_true]
+theorem zero_lor (n : ℕ) : 0 ||| n = n := by simp
 #align nat.zero_lor Nat.zero_lor
 
-@[simp]
-theorem lor_zero (n : ℕ) : n ||| 0 = n := by
-  simp only [HOr.hOr, OrOp.or, lor, bitwise_zero_right, ite_true, Bool.or_false]
+theorem lor_zero (n : ℕ) : n ||| 0 = n := by simp
 #align nat.lor_zero Nat.lor_zero
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:362]: I think these should just be removed, and the aligns changed to drop the `l`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 2]
```diff
@@ -415,8 +384,9 @@ theorem lor_assoc (n m k : ℕ) : (n ||| m) ||| k = n ||| (m ||| k) := by bitwis
 #align nat.lor_assoc Nat.lor_assoc
 
 @[simp]
-theorem xor_self (n : ℕ) : n ^^^ n = 0 :=
-  zero_of_testBit_eq_false fun i => by simp
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:419]: What broke this proof?

File: Mathlib/Init/Data/Nat/Bitwise.lean [hunk 3]
```diff
@@ -301,15 +293,30 @@ theorem shiftLeft_sub : ∀ (m : Nat) {n k}, k ≤ n → m <<< (n - k) = (m <<<
...
+    rw [Nat.add_mod]
+    simp
+
 #align nat.test_bit_zero Nat.testBit_zero
 
+theorem bodd_eq_and_one_ne_zero : {n : Nat} → bodd n = (n &&& 1 != 0)
+  | 0 => rfl
+  | 1 => rfl
+  | n + 2 => by
+    have := @bodd_eq_and_one_ne_zero n
```
Comment (eric-wieser) [inline Mathlib/Init/Data/Nat/Bitwise.lean:311]:
```suggestion
theorem bodd_eq_and_one_ne_zero : (n : Nat) → bodd n = (n &&& 1 != 0)
  | 0 => rfl
  | 1 => rfl
  | n + 2 => by
    have := bodd_eq_and_one_ne_zero n
```

File: Mathlib/Data/Num/Lemmas.lean [hunk 4]
```diff
@@ -972,23 +972,26 @@ theorem castNum_testBit (m n) : testBit m n = Nat.testBit m n := by
...
+    rw [show (Num.zero : Nat) = 0 from rfl, Nat.zero_shiftRight]
     rfl
   case pos m =>
     induction' n with n IH generalizing m <;> cases' m with m m <;> dsimp only [PosNum.testBit]
     · rfl
-    · exact (Nat.bodd_bit _ _).symm
-    · exact (Nat.bodd_bit _ _).symm
-    · change false = Nat.bodd (1 >>> (n + 1))
+    · simp only [cast_pos, PosNum.cast_bit1, Nat.zero_eq, Nat.shiftRight_zero, Nat.and_one_is_mod]
+      rw[←Nat.bit_true, Nat.bit_mod_two]
```
Comment (eric-wieser) [inline Mathlib/Data/Num/Lemmas.lean:981]: A style comment:
```suggestion
      rw [← Nat.bit_true, Nat.bit_mod_two]
```
and in a few other places

File: Mathlib/Data/Nat/Bitwise.lean [hunk 5]
```diff
@@ -217,31 +206,19 @@ theorem zero_of_testBit_eq_false {n : ℕ} (h : ∀ i, testBit n i = false) : n
...
-theorem eq_of_testBit_eq {n m : ℕ} (h : ∀ i, testBit n i = testBit m i) : n = m := by
-  induction' n using Nat.binaryRec with b n hn generalizing m
-  · simp only [zero_testBit] at h
-    exact (zero_of_testBit_eq_false fun i => (h i).symm).symm
-  induction' m using Nat.binaryRec with b' m
-  · simp only [zero_testBit] at h
-    exact zero_of_testBit_eq_false h
-  suffices h' : n = m by
-    rw [h', show b = b' by simpa using h 0]
-  exact hn fun i => by convert h (i + 1) using 1 <;> rw [testBit_succ]
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Bitwise.lean:244]: This proof looks much nicer to me than the one (for the converse, `ne_implies_bit_diff`) that landed in Std4 :(.

Comment (alexkeizer) [reply Mathlib/Data/Nat/Bitwise.lean:244]: I guess that is inevitable, since we don't have `Nat.binaryRec` in std yet (at least, https://github.com/leanprover/std4/pull/314 is still open, and I'm not aware of any alternative PRs)

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -31,20 +31,10 @@ theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
...
-@[simp]
-lemma ofNat_eq_mod_two_pow (n : Nat) : (BitVec.ofNat w n).toNat = n % 2^w := rfl
-
-lemma toNat_ofNat {m} (h : m < 2^w) : (BitVec.ofNat w m).toNat = m := Fin.val_cast_of_lt h
-
-@[simp]
-lemma toNat_ofFin (x : Fin (2^w)) : (ofFin x).toNat = x.val := rfl
+attribute [simp] toNat_ofNat toNat_ofFin
 
-theorem toNat_append (msbs : BitVec w) (lsbs : BitVec v) :
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:42]: https://github.com/leanprover/std4/pull/366/files#r1410924581

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -60,14 +50,9 @@ lemma extractLsb_eq {w : ℕ} (hi lo : ℕ) (a : BitVec w) :
 
 theorem toNat_extractLsb' {i j} {x : BitVec w} :
     (extractLsb' i j x).toNat = x.toNat / 2 ^ i % (2 ^ j) := by
-  simp only [extractLsb', ofNat_eq_mod_two_pow, shiftRight_eq_div_pow]
-
-theorem getLsb_eq_testBit {i} {x : BitVec w} : getLsb x i = x.toNat.testBit i := by
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:65]: Where did this go?

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Lemmas.lean:65]: The RHS is now the definition of `getLsb`, so this is replaced by unfolding `getLsb`

**Comment by eric-wieser** [comment]
bors merge

I've updated the PR description to summarize some concerns for a follow-up.

**Comment by semorrison** [comment]
bors p=10
